US07645771B2
To ˜20 mL of liquid ammonia at −78° C. was added 2.1 g (10 mmol) of 3-fluoro-4-methyl benzenesulfonyl chloride. The excess ammonia was then naturally evaporated to dryness overnight at room temperature. The crude sulfonamide was partitioned methylene chloride (100 mL) and water (100 mL). The aqueous phase was further extracted with methylene chloride. The combined organic extracts were dried over anhydrous sodium sulfate. Evaporation of the solvents afforded 1.9 g of 3-fluoro-4-methylbenzenesulfonamide as a solid.

reactant | ammonia | N | H3N
reactant | 3-fluoro-4-methyl benzenesulfonyl chloride | 10 mmol, 2.1 g | FC=1C=C(C=CC1C)S(=O)(=O)Cl | C7H6ClFO2S
product | 3-fluoro-4-methylbenzenesulfonamide | 1.9 g | FC=1C=C(C=CC1C)S(=O)(=O)N | C7H8FNO2S
